US09422281B2
Step 2. (S)-(7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-yl)(cyclopropyl)methanone
A 250-mL, three-necked round bottom flask fitted with a nitrogen inlet, magnetic stir bar, thermocouple, and condenser was charged with (S)-1-(6-bromo-4-(cyclopropanecarbonyl)-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)-2,2,2-trifluoroethanone (8.26 g, 21.12 mmol), ethanol (82 mL), and half-saturated sodium bicarbonate (82 mL, 422 mmol). The reaction mixture was heated to 78° C. for 3 h and then cooled to rt. The ethanol was removed under reduced pressure, and the resulting solution was extracted with dichloromethane (2×125 mL). The combined organic layers were concentrated under reduced pressure. The crude product was diluted with 2-methyltetrahydrofuran (100 mL), and the resulting solution concentrated to remove trace water. This afforded (S)-(7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-yl)(cyclopropyl)methanone (6.25 g, 100%) as an oil, which was used as is for the next step. MS (ESI, pos. ion) m/z 296. [M+1]+.

reactant | (S)-1-(6-bromo-4-(cyclopropanecarbonyl)-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)-2,2,2-trifluoroethanone | 21.12 mmol, 8.26 g | BrC=1C=C2N(C[C@@H](N(C2=CC1)C(C(F)(F)F)=O)C)C(=O)C1CC1 | C15H14BrF3N2O2
reactant | sodium bicarbonate | 422 mmol, 82 mL | C([O-])(O)=O.[Na+]
solvent | ethanol | 82 mL | C(C)O | C2H6O
product | (S)-(7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-yl)(cyclopropyl)methanone | BrC1=CC=C2N[C@H](CN(C2=C1)C(=O)C1CC1)C | C13H15BrN2O
